US06169107A
The reaction was carried out in a manner similar to Example 1 except for using 1.28 g (2.88 mmol) of ethyl 6-(3-tert-butoxycarbonylaminopropoxy)-1-methyl-4-trifluoromethyl-2-indolecarboxylate, 5.50 g (57.6 mmol) of guanidine hydrochloride and 60 ml of methanol solution of 3.11 g (57.6 mmol) of sodium methoxide. 6-(3-tert-Butoxycarbonylaminopropoxy)-1-methyl-4-trifluoromethyl-2-indoloylguanidine was thus obtained in an amount of 0.41 g. This compound, 0.41 g, was treated in a manner similar to Example 114 to give 0.27 g (21.8%) of 6-(3-aminopropoxy)-1-methyl-4-trifluoromethyl-2-indoloylguanidine dihydrochloride.

reactant | ethyl 6-(3-tert-butoxycarbonylaminopropoxy)-1-methyl-4-trifluoromethyl-2-indolecarboxylate | 2.88 mmol, 1.28 g | C(C)(C)(C)OC(=O)NCCCOC1=CC(=C2C=C(N(C2=C1)C)C(=O)OCC)C(F)(F)F | C21H27F3N2O5
reactant | guanidine hydrochloride | 57.6 mmol, 5.50 g | Cl.NC(=N)N
reactant | sodium methoxide | 57.6 mmol, 3.11 g | C[O-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 6-(3-tert-Butoxycarbonylaminopropoxy)-1-methyl-4-trifluoromethyl-2-indoloylguanidine | C(C)(C)(C)OC(=O)NCCCOC1=CC(=C2C=C(NC2=C1)C(=O)N=C(NC)N)C(F)(F)F | C20H26F3N5O4
